US07579368B2
Potassium carbonate (60.4 g, 437 mmol) and iodoethane (17.6 mL, 218.4 mmol) were added to a mechanically stirred solution of 2-hydroxy-4-nitro-benzoic acid (10.0 g, 54.6 mmol) in 2-butanone (165 mL). The resulting mixture was heated in an 80° C. oil bath for 16 h and then allowed to cool. TLC (20% ethyl acetate in hexanes) showed consumption of starting material. The reaction mixture was concentrated to dryness, and the residue was taken up in ethyl acetate and washed three times with a saturated solution of sodium thiosulfate, dried over magnesium sulfate and concentrated to give ethyl 2-ethoxy-4-nitro-benzoate as a yellow solid (12.7 g, 97%). LC-MS: 240.1 [(M+H)+].

reactant | Potassium carbonate | 437 mmol, 60.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 218.4 mmol, 17.6 mL | ICC | C2H5I
reactant | 2-hydroxy-4-nitro-benzoic acid | 54.6 mmol, 10.0 g | OC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H5NO5
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 2-butanone | 165 mL | CC(CC)=O | C4H8O
product | ethyl 2-ethoxy-4-nitro-benzoate | 12.7 g, 97% | C(C)OC1=C(C(=O)OCC)C=CC(=C1)[N+](=O)[O-] | C11H13NO5
